US04666936
Preparation of 2-{4-[4-(1-pyrryl)-phenylacetamido]-benzyl}-butyric acid ethyl ester (compound 5).
A solution of 4-(1-pyrryl)phenylacetic acid (3 g) in anhydrous THF (50 ml) is additioned with a solution of carbonyldiimidazole (2.9 g) in THF (80 ml). After 45 minutes a solution of ethyl-2-(p-aminobenzyl)-butyrate (3.3 g) in THF (30 ml). is added. It is reflux heated for an hour, then dried and the residue is dissolved in dichloromethane. The organic solution is washed, first with NaOH 1M, then with HCl 1M and lastly with water. After drying on anhydrous sodium sulfate it is filtered and dried. A yellow solid (1.4 g) is obtained which melts at 100°-102° C. Analysis:

reactant | 4-(1-pyrryl)phenylacetic acid | 3 g | N1(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C12H11NO2
reactant | carbonyldiimidazole | 2.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl-2-(p-aminobenzyl)-butyrate | 3.3 g | C(C)OC(C(CC)CC1=CC=C(C=C1)N)=O | C13H19NO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-{4-[4-(1-pyrryl)-phenylacetamido]-benzyl}-butyric acid ethyl ester | 1.4 g | C(C)OC(C(CC)CC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)N1C=CC=C1)=O)=O | C25H28N2O3
